US07375113B2
To a solution of 4-[2-(4-{(E)-3-[1-{[4-(benzyloxy-carbonyl)piperazin-1-yl]carbonyl}-1-(methyl)ethyl-carbamoyl]prop-1-enyl}phenyl)ethynyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (73 mg) in acetone (4 mL) were added 2-bromoacetoamide (18 mg), cesium carbonate (54 mg) and a catalytic amount of sodium iodide, and the mixture was stirred at room temperature for5 hours. The reaction mixture was diluted with diethyl ether, and the resulting mixture was washed with water twice and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent:dichloromethane/methanol=40/1-30/1) to give 4-[2-(4-{(E)-3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-l-(methyl)ethylcarbamoyl]prop-l-enyl}-phenyl)ethynyl]-1-carbamoylmethyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole (54 mg). The title compound (10 mg) was prepared in a similar manner to that described in Example 109 using this material as the starting material.

reactant | 4-[2-(4-{(E)-3-[1-{[4-(benzyloxy-carbonyl)piperazin-1-yl]carbonyl}-1-(methyl)ethyl-carbamoyl]prop-1-enyl}phenyl)ethynyl]-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 73 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)C(C)(C)NC(=O)C/C=C/C1=CC=C(C=C1)C#CC1=C2C(=NNC2=CC=C1)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C61H77N5O14
reactant | 2-bromoacetoamide | 18 mg | BrCC(=O)N | C2H4BrNO
reactant | cesium carbonate | 54 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | [I-].[Na+]
solvent | acetone | 4 mL | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-[2-(4-{(E)-3-[1-{[4-(benzyloxycarbonyl)piperazin-1-yl]carbonyl}-l-(methyl)ethylcarbamoyl]prop-l-enyl}-phenyl)ethynyl]-1-carbamoylmethyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-indazole | 54 mg | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C(=O)C(C)(C)NC(=O)C/C=C/C1=CC=C(C=C1)C#CC1=C2C(=NN(C2=CC=C1)CC(N)=O)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O | C63H80N6O15
